US05925642
A1. Ethyl 2-(1-ethoxyethyliden)amino-6-methyl-4-(3-nitrophenyl)-5-[1-oxo-11-(4,4-diphenyl-1-piperidinyl)undecyl]pyridine-3-carboxylate
5.7 g of ethyl 2-amino-6-methyl-4-(3-nitrophenyl)-5-[1-oxo-11-(4,4-diphenyl-1-piperidinyl)undecyl]pyridine-3-carboxylate hydrochloride and 150 ml of triethyl orthoacetate are heated at 125° C. for 72 h with passage of nitrogen. The solution is concentrated in vacuo, and the residue is dried and then chromatographed through a silica gel column using petroleum ether/ethyl acetate/triethylamine 7:3:0.5 as eluent. The pure fractions are combined and concentrated, and the residue is dried in a high vacuum. 3 g of the title compound are obtained as a pale yellow oil.

reactant | ethyl 2-amino-6-methyl-4-(3-nitrophenyl)-5-[1-oxo-11-(4,4-diphenyl-1-piperidinyl)undecyl]pyridine-3-carboxylate hydrochloride | 5.7 g | Cl.NC1=NC(=C(C(=C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(CCCCCCCCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C
solvent | triethyl orthoacetate | 150 ml | C(C)(OCC)(OCC)OCC | C8H18O3
product | Ethyl 2-(1-ethoxyethyliden)amino-6-methyl-4-(3-nitrophenyl)-5-[1-oxo-11-(4,4-diphenyl-1-piperidinyl)undecyl]pyridine-3-carboxylate | 3 g | C(C)OC(C)=NC1=NC(=C(C(=C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(CCCCCCCCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C47H58N4O6
